* OVERALL BEST CANDIDATE: 00_Phase_1_24V_Industrial_to_12V_Bus_Buck_g1_cand3_b9
* FITNESS SCORE: 0.7966
*
* Generated: 2026-06-07T22:59:57
* Constraint: Phase 1: 24V Industrial to 12V Bus (Buck)
*   vin_min = 20
*   vin_max = 28
*   vout_target = 12
*   efficiency_target = 0.82
*   power_in = 30
* Candidate: 3 of 12
* Grouped name: g1_cand3
*
* 20-28V to 12V Buck Converter
Vin in 0 24
M1 in gate sw 0 NMOS W=1 L=1
D1 sw out DIODE
L1 sw out 220u
C1 out 0 470u
Rload out 0 1
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
